US04966967
9-Amino-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
To ethyl acetate (1 L) add 4-[(4-methylphenyl)sulfonyl]-9-nitro-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine (7.5 g, 20 mmol) and Pd(OH)2 on carbon (1.0 g). Place the reaction mixture on a Parr hydrogenator and shake at 50 psi of hydrogen. Monitor the progress of the reaction by thin-layer chromatography. Upon completion remove the catalyst by suction filtration through celite. Remove the solvent in vacuo to obtain the title compound.

reactant | 4-[(4-methylphenyl)sulfonyl]-9-nitro-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | 20 mmol, 7.5 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCOC2=C(OCC1)C=CC(=C2)[N+](=O)[O-] | C17H18N2O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 1.0 g | [OH-].[OH-].[Pd+2]
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 9-Amino-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | NC1=CC2=C(OCCN(CCO2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C17H20N2O4S
